US04545811
3.9 g (0.025 mol) of phenyl chloroformate and 0.05 g of 4-dimethylamino-pyridine are added in succession to a solution of 9.0 g (0.05 mol) of 2-amino-4-difluoromethoxy-6-methyl-pyrimidine in 30 ml of absolute tetrahydrofuran. The solution is stirred at 20°-25° C. for 24 hours and the reaction mixture is then diluted with 250 ml of ethyl acetate and the precipitate is separated off. 3.1 g of 2-amino-4-difluoromethoxy-6-methyl-pyrimidine hydrochloride of melting point 204°-205° C. (decomposition) are thus obtained. To remove the residual starting material, the filtrate is eluted over a column containing the ion exchanger I® (MERCK), and the eluate is dried over sodium sulfate and evaporated. 4.0 g of 2-phenoxycarbonylamino-4-difluoromethoxy-6-methyl-pyrimidine are obtained as the crude product in the form of a viscous oil. After crystallisation, the product has a melting point of 56°-58° C.

reactant | phenyl chloroformate | 0.025 mol, 3.9 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 2-amino-4-difluoromethoxy-6-methyl-pyrimidine | 0.05 mol, 9.0 g | NC1=NC(=CC(=N1)OC(F)F)C | C6H7F2N3O
catalyst | 4-dimethylamino-pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-4-difluoromethoxy-6-methyl-pyrimidine hydrochloride | 3.1 g | Cl.NC1=NC(=CC(=N1)OC(F)F)C | InChI=1S/C6H7F2N3O.ClH/c1-3-2-4(12-5(7)8)11-6(9)10-3;/h2,5H,1H3,(H2,9,10,11);1H
